US06420385B1
Step A: 6-(4-pyridyl)-2-thiouracil:
Ethyl isonicotinoylacetate (5 g, 25.89 mmol) and thiourea (5.94 g, 77.64 mmol) were suspended in anhydrous p-xylene (100 ml) with vigorous stirring. To the mixture, pyridinium p-toluenesulfonate (150 mg) was added and refluxed for 12-16 h using a Dean-Stark apparatus with continuous removal of water (0.5 ml). The reaction mixture was cooled and a dark brown solid was filtered. The collected solid was suspended in acetone (25 ml) and filtered. The acetone washed product contain trace of thiourea, which was removed by trituration with hot water (20-30 ml). The title compound was isolated by filtration. MS (m/z): 206.2 C9H7N3OS requir. 205.3. 1H-NMR (DMSO-d6): d 12.65 (bm, 2H, NH and SH), 8.71(m, 2H, pryid.), 7.66(m, 2H, Pyrid.), 6.25 (s, 1H, H-5).

reactant | Ethyl isonicotinoylacetate | 25.89 mmol, 5 g | C(C1=CC=NC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | thiourea | 77.64 mmol, 5.94 g | NC(=S)N | CH4N2S
reactant | pyridinium p-toluenesulfonate | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | p-xylene | 100 ml | CC=1C=CC(=CC1)C | C8H10
product | 6-(4-pyridyl)-2-thiouracil | N1=CC=C(C=C1)C1=CC(NC(N1)=S)=O | C9H7N3OS
